US05332757
Using an analogous procedure to that described in Example 12, 4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]phenyl 2-thiazolyl ketone was reacted with hydroxylamine hydrochloride to give in turn the geometric isomers of 4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]phenyl 2-thiazolyl ketone oxime:Isomer A in 40% yield, m.p. 153°-154° C.,

reactant | 4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]phenyl 2-thiazolyl ketone | S1C(=NC=C1)C(=O)C1=CC=C(C=C1)SC1=CC(=CC(=C1)F)C1(CCOCC1)OC | C22H20FNO3S2
reactant | hydroxylamine hydrochloride | Cl.NO
product | 4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]phenyl 2-thiazolyl ketone oxime | 40% yield | S1C(=NC=C1)C(C1=CC=C(C=C1)SC1=CC(=CC(=C1)F)C1(CCOCC1)OC)=NO | C22H21FN2O3S2
